US07776857B2
A 5 mL microwave tube was charged with 4-(4-(4-methoxyphenyl)phthalazin-1-ylamino)phenol and 3 equivalents of cesium carbonate (342 mg, 1.048 mmol) in 1.8 mL of DMF. The mixture was stirred at RT for 10 min. Following addition of 8-chloro-3-methoxy-1,5-naphthyridine (88 mg, 0.454 mmol), the vessel was capped and irradiated at 150° C. for 15 min in the microwave, at which time the reaction was determined complete by LC/MS. The mixture was cooled to ambient temperature and diluted with water. The solids were filtered and washed with water. The solids were triturated with methanol, filtered to remove remaining impurities, washed with additional methanol and dried under vacuum to afford N-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenyl)-4-(4-methoxyphenyl)phthalazin-1-amine as a light orange solid. MS [M+H]=502; Calc'd 501.54 for C30H25N5O3.

reactant | 4-(4-(4-methoxyphenyl)phthalazin-1-ylamino)phenol | COC1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)O | C21H17N3O2
reactant | cesium carbonate | 1.048 mmol, 342 mg, 3 equivalents | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 8-chloro-3-methoxy-1,5-naphthyridine | 0.454 mmol, 88 mg | ClC=1C=CN=C2C=C(C=NC12)OC | C9H7ClN2O
solvent | DMF | 1.8 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenyl)-4-(4-methoxyphenyl)phthalazin-1-amine | COC1=CN=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=C(C=C1)OC | C30H23N5O3
